US04690931
1. 2-[4-(4-Methylbenzyl)-piperidino]-4'-benzyloxypropiophenone
13.7 g (0.05 mol) of 2-chloro-4'-(4-benzyloxyphenyl)-propiophenone are added to a solution of 9.4 g (0.05 mol) of 4-(4-methylbenzyl)-piperidine in 50 ml of ethanol, 5.3 g (0.05 mol) of sodium carbonate are then added and the mixture is heated under reflux for 3 and a half hours and left to stand overnight. The inorganic precipitate is filtered off, the ethanol is evaporated off, the oily residue is taken up in acetone and the acetone is evaporated off. The residual oil is chromatographed on 80 g of silica using acetone as the eluant, and 21 g of an oil used as such in the subsequent reduction, are collected.

reactant | 2-chloro-4'-(4-benzyloxyphenyl)-propiophenone | 0.05 mol, 13.7 g | ClC(C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C22H19ClO2
reactant | 4-(4-methylbenzyl)-piperidine | 0.05 mol, 9.4 g | CC1=CC=C(CC2CCNCC2)C=C1 | C13H19N
reactant | sodium carbonate | 0.05 mol, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(4-Methylbenzyl)-piperidino]-4'-benzyloxypropiophenone | CC1=CC=C(CC2CCN(CC2)C(C(=O)C2=CC=C(C=C2)OCC2=CC=CC=C2)C)C=C1 | C29H33NO2
